US07612114B2
4-{5-Methoxy-2-[2-(4-methoxyphenyl)-2-methylpropyl]phenoxy}phenol
Synthesized from 5-methoxy-2-[2-(4-methoxyphenyl)-2-methylpropyl]phenol and 4-fluorobenzaldehyde according to an analogous synthetic method to Preparation Example 189 described below, 4-{5-methoxy-2-[2-(4-methoxyphenyl)-2-methylpropyl]phenoxy}benzaldehyde (860 mg) was used according to an analogous synthetic method to Preparation Example 190 described below to provide the title compound (201 mg).

reactant | 5-methoxy-2-[2-(4-methoxyphenyl)-2-methylpropyl]phenol | COC=1C=CC(=C(C1)O)CC(C)(C)C1=CC=C(C=C1)OC | C18H22O3
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 4-{5-methoxy-2-[2-(4-methoxyphenyl)-2-methylpropyl]phenoxy}benzaldehyde | 860 mg | COC=1C=CC(=C(OC2=CC=C(C=O)C=C2)C1)CC(C)(C)C1=CC=C(C=C1)OC | C25H26O4
product | 4-{5-Methoxy-2-[2-(4-methoxyphenyl)-2-methylpropyl]phenoxy}phenol | 201 mg | COC=1C=CC(=C(OC2=CC=C(C=C2)O)C1)CC(C)(C)C1=CC=C(C=C1)OC | C24H26O4
